US07288544B2
7) Synthesis of N-[4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinyl]-3-phenylpropanamide:
51.4 mg (0.342 mmol) of 3-phenylpropionic acid was dissolved in 1 ml of thionyl chloride. A catalytic amount of DMF was added and stirred at room temperature for 3 hours. After the solvent was evaporated under reduced pressure, 45.4 mg (0.171 mmol) of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinamine and 1 ml of pyridine were added and stirred at 50° C. overnight. After the solvent was evaporated under reduced pressure, the reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 3-phenylpropionic acid | 0.342 mmol, 51.4 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinamine | 0.171 mmol, 45.4 mg | ClC=1C=C(C=CC1)C1=NC(=NC(=C1N)C)SC | C12H12ClN3S
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
product | N-[4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinyl]-3-phenylpropanamide | ClC=1C=C(C=CC1)C1=NC(=NC(=C1NC(CCC1=CC=CC=C1)=O)C)SC | C21H20ClN3OS
